US04568744
Preparation of 5-(4-amino-3,5-diisopropylbenzyl)uracil
A mixture of 5-dimethylaminomethyluracil hydrochloride (10.28 g, 50.0 mmol) and 2,6-diisopropylaniline (10.64 g, 60.0 mmol) in ethylene glycol (75 mL) was heated for 41/2 hours at 134°-137° C. After cooling, the title compound was filtered, washed with ethanol, and dried (5.55 g, 37%). A second crop was obtained from the mother liquor upon standing (3.24 g, 21.5%). The two crops were combined and recrystallized from methanol to give the purified title compound (5.84 g, 38.8%).

reactant | 5-dimethylaminomethyluracil hydrochloride | 50.0 mmol, 10.28 g | Cl.CN(C)CC=1C(NC(NC1)=O)=O
reactant | 2,6-diisopropylaniline | 60.0 mmol, 10.64 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | ethylene glycol | 75 mL | C(CO)O | C2H6O2
product | 5-(4-amino-3,5-diisopropylbenzyl)uracil | NC1=C(C=C(CC=2C(NC(NC2)=O)=O)C=C1C(C)C)C(C)C | C17H23N3O2
